US08278290B2
b) Preparation of 2-(1N-1,2,3-triazolyl)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan (Entry 35, Table 1)
This material was prepared according to the procedure outlined above for 2-(N-imidazolyl)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan (entry 27, Table 1), above, except the 1,2,3-triazole was used as the nucleophile in place of imidazole. 1H NMR (300 MHz, CDCl3) δ 8.47(d, 1H, J=1.21 Hz), 7.75(d, 1H, J=1.20 Hz), 7.27(d, 1H, J=8.60 Hz), 7.18(d, 1H, J=8.66 Hz), 7.05(s, 2H, benzoyl Hs), 3.94 (s, 3H, OMe), 3.74(s, 6H, 2×OMe), 3.73(s, 3H, OMe).

reactant | 2-(N-imidazolyl)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan | N1(C=NC=C1)C1=C(C2=C(O1)C(=C(C=C2)OC)O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C22H20N2O7
reactant | 1,2,3-triazole | N1N=NC=C1 | C2H3N3
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 2-(1N-1,2,3-triazolyl)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan | N1(N=NC=C1)C1=C(C2=C(O1)C(=C(C=C2)OC)O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C21H19N3O7
